US06448397B1
To a mixture of tert-butyl 4-{2-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]ethyl}-1-piperazinecarboxylate (0.406 g, 0.79 mmol) in CH2Cl2 (2 mL) is added trifluoroacetic acid (2 mL). The mixture is stirred at room temperature for 1 h then partitioned between CH2Cl2 and water. The organic layer is washed with saturated potassium carbonate, dried over anhydrous sodium sulfate and concentrated. Column chromatography (50 mL silica) using CH3OH/CH2C2 (8/92) with 2 drops per 100 mL of NH4OH gave 0.133 g (35%) of 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl 2-(1-piperazinyl)ethyl ether; mp 72° C.

reactant | tert-butyl 4-{2-[(1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl)oxy]ethyl}-1-piperazinecarboxylate | 0.79 mmol, 0.406 g | C1(=CC=CC=C1)C1COC=2C=CC=C3C=4C(=CC=CC4N1C23)OCCN2CCN(CC2)C(=O)OC(C)(C)C | C31H35N3O4
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-phenyl-1,2-dihydro[1,4]oxazino[2,3,4-jk]carbazol-7-yl 2-(1-piperazinyl)ethyl ether | 0.133 g, 35% | N1(CCNCC1)CCOC=1C=CC=C2N3C4=C(C=CC=C4C12)OCC3C3=CC=CC=C3 | C26H27N3O2
